US04098904
Following the procedure of Example 1b, using trans-N-[2-(4-methoxy-1-piperidinyl)cyclopentyl]amine and 3-methoxy-4-chlorobenzoyl chloride there is obtained as product trans-N-[2-(4-methoxy-1-piperidinyl)cyclopentyl]-3-methoxy-4-chlorobenzamide.

reactant | trans-N-[2-(4-methoxy-1-piperidinyl)cyclopentyl]amine | COC1CCN(CC1)[C@H]1[C@@H](CCC1)N | C11H22N2O
reactant | 3-methoxy-4-chlorobenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1Cl | C8H6Cl2O2
product | trans-N-[2-(4-methoxy-1-piperidinyl)cyclopentyl]-3-methoxy-4-chlorobenzamide | COC1CCN(CC1)[C@H]1[C@@H](CCC1)NC(C1=CC(=C(C=C1)Cl)OC)=O | C19H27ClN2O3
